US08278316B2
D. 4-((4-Chlorophenoxy)methyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one
To a mixture of 4-((4-chlorophenoxy)methyl)pyrimidin-2(1H)-one Part C (0.2 g, 0.845 mmol), 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid Part D of Procedure 4 (0.304 g, 1.268 mmol), and copper (II) acetate monohydrate (0.169 g, 0.845 mmol) in MeOH (45 mL) and H2O (11 mL) was added N,N,N′N′-tetramethylethylenediamine (0.26 mL, 1.690 mmol). After stirring at RT for 45 minutes in the presence of air, the mixture was extracted with CH2Cl2 (200 mL). The organic phase was dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica gel/100:0 to 0:100 hexanes-ethyl acetate to 95:5 CH2Cl2/MeOH gradient). The product thus obtained was re-purified using prep HPLC (Phen Luna Axia C18 5μ 10:90 to 90:10 MeOH/H2O) to afford the desired product 4-((4-chlorophenoxy)methyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one C-1 (16.9 mg, 0.036 mmol, 4.32% yield) as a yellow solid. 100 mg of starting material 4-((4-chlorophenoxy)methyl)pyrimidin-2(1H)-one was also recovered. LC/MS 431 (M+H)+, tR 0.81 min (method 5); 1H NMR (400 MHz, Chloroform-D) δ 7.73 (1H, d, J=6.78 Hz), 7.28-7.31 (2H, m), 6.94-7.03 (2H, m), 6.86-6.94 (3H, m), 6.66 (1H, d, J=7.03 Hz), 5.02 (2H, s), 3.87 (3H, s), 3.86 (2H, s), 1.36 (6H, s).

reactant | 4-((4-chlorophenoxy)methyl)pyrimidin-2(1H)-one | ClC1=CC=C(OCC2=NC(NC=C2)=O)C=C1 | C11H9ClN2O2
reactant | 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid | OC(COC1=C(C=C(C=C1)B(O)O)OC)(C)C | C11H17BO5
solvent | MeOH | 45 mL | CO | CH4O
solvent | H2O | 11 mL | O | H2O
catalyst | copper (II) acetate monohydrate | 0.845 mmol, 0.169 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-((4-chlorophenoxy)methyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one | ClC1=CC=C(OCC2=NC(N(C=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23ClN2O5
